US06281353B1
7-Chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamidoxime.
16.8 g 7-Chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carbonitrile were suspended under stirring and argon atmosphere in 101 ml N,N-dimethylformamide and 13.48 g hydroxylamine hydrochloride were added in one portion. 34.2 ml Sodium methanolate were then added over 60 minutes to the yellow suspension, which turned to a colorless suspension. It was stirred one more hour at r.t., then cooled to 0-2° C. and 202 ml deionized water were added over 30 minutes. After stirring one more hour at 0° C., the precipitate (7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamidoxime (VIII)) was filtered off, washed twice with 40 ml deionized water and dried under vacuum at 70° C. for 18 hours. Crude product: 17.84 g as a white powder. m.p. >250° C.

reactant | 7-Chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carbonitrile | 16.8 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C#N)C)=O | C13H9ClN4O
reactant | hydroxylamine hydrochloride | 13.48 g | Cl.NO
reactant | Sodium methanolate | 34.2 ml | C[O-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 101 ml | CN(C=O)C | C3H7NO
product | 7-Chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamidoxime | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C(N)=NO)C)=O | C13H12ClN5O2
